US06284785B1
(RS)-1-(4-Chloro-benzenesulfonyl)-2-(4-dimethylamino-3-fluoro-phenyl)-pyrrolidine
The title compound, white solid, m.p. 99° C. and MS: m/e=383.2 (M+H+) was prepared in accordance with the general method of example 1e from (RS)-2-(4-dimethylamino-3-fluoro-phenyl)-pyrrolidine and 4-chloro -benzenesulfonyl chloride.

reactant | (RS)-2-(4-dimethylamino-3-fluoro-phenyl)-pyrrolidine | CN(C1=C(C=C(C=C1)C1NCCC1)F)C | C12H17FN2
reactant | 4-chloro -benzenesulfonyl chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | (RS)-1-(4-Chloro-benzenesulfonyl)-2-(4-dimethylamino-3-fluoro-phenyl)-pyrrolidine | ClC1=CC=C(C=C1)S(=O)(=O)N1C(CCC1)C1=CC(=C(C=C1)N(C)C)F | C18H20ClFN2O2S
